2179-08-17 02:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight, sometimes patient pacing at 80 and other times pacing at
   100.  Appeared as if he was going into runs/beats of NSVT.
   Patient feels well this morning.  He is mentating and his only
   complaint is that he is cold.  He says that he is breathing comfortably
   and is in no pain. Denies fever, nausea, vomiting, diarrhea, abdominal
   pain, and chest pain.
   Spoke with renal who said that pt is 30 kg above his dry weight.  they
   would like to take off 3L fluid per day, despite his poor BP, to get
   him back on the Starling curve.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-8-14**] 02:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-8-16**] 04:09 AM
   Infusions:
   Norepinephrine - 0.17 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Epinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-8-16**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-8-17**] 02:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 82 (80 - 106) bpm
   BP: 73/50(56) {67/39(33) - 89/73(100)} mmHg
   RR: 20 (15 - 35) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Wgt (current): 72.8 kg (admission): 79 kg
   Height: 58 Inch
    CVP: 18 (17 - 20)mmHg
   Total In:
                                                                  3,595 mL
                                                                    515 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  3,435 mL
                                                                    515 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,391 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,796 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.43/37/138/24/1
   Physical Examination
   VS: Tc 96.3 Tm 98.6 BP=74/55 HR=80-90 RR= O2 sat=
   GENERAL: Chronically ill appearing male, resting comfortably in NAD.
   Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric  EOMI
   NECK: Supple; tenderness, swelling, and weeping around RIJ, no JVD
   appreciable
   CARDIAC:  distant heart sounds RRR, no appreciable murmur
   LUNGS: Bilateral chest tubes in place, Resp were unlabored, no
   accessory muscle use. bibasilar crackles.
   ABDOMEN: Soft, NT, slightly distended, soft/reducible umbilical hernia,
   No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: s/p right BKA, LLE with venous stasis dermatitis, slight
   arterial ulceration over ventral aspect of toes, no evidence of acute
   infection, palpable left DP.
   Labs / Radiology
   324
   10.8 g/dL
   160 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.3 mEq/L
   23 mg/dL
   94 mEq/L
   133 mEq/L
   34.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2179-8-15**]  02:00 AM
                             [**2179-8-15**]  02:32 AM
                             [**2179-8-15**]  02:56 AM
                             [**2179-8-15**]  03:00 AM
                             [**2179-8-15**]  07:54 AM
                             [**2179-8-15**]  01:22 PM
                             [**2179-8-16**]  01:36 AM
                             [**2179-8-16**]  02:52 AM
                             [**2179-8-16**]  10:07 AM
                             [**2179-8-16**]  05:09 PM
   WBC
   21.0
   15.6
   14.5
   Hct
   33.1
   34.3
   34.3
   Plt
   [**Telephone/Fax (3) 9206**]
   Cr
   3.4
   2.9
   3.1
   2.9
   2.9
   TCO2
   26
   25
   25
   Glucose
   51
   44
   84
   81
   141
   137
   153
   237
   Other labs: PT / PTT / INR:16.4/31.3/1.5, ALT / AST:13/18, Alk Phos / T
   Bili:117/1.2, Differential-Neuts:89.8 %, Lymph:4.3 %, Mono:4.7 %,
   Eos:1.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.1 g/dL, LDH:226 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE I
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 9204**] is a 69 yo M with severe ischemic cardiomyopathy (EF
   5-10%), L mainstem bronchus compression [**2-15**] LV enlargement s/p
   bronchoscopy and stenting,  ESRD on HD, course c/b post bronch
   hypotension and inability to wean pressor support.
   .
   # PUMP: Acute on chronic ischemic systolic heart failure with EF 5-10%,
   exacerbation likely [**2-15**] combination of volume overload (up 30kg from
   dry weight) and positive pressure ventillation for rigid bronchoscopy.
   Unclear if patient has LV dysynchrony which could be contributing to
   his systolic failure.
   -echocardiogram to evaluate for LV dysnchrony
   -continue CVVH for volume removal as pt is 30kg over his dry weight
   -goal of 2-4kg of volume removal daily
   -continue epi/levophed to support BP during volume removal
   -continue digoxin
   -holding BB, ACEI given need for pressors at this time
   -continue midodrine
   .
   # CORONARIES: severe dilated cardiomyopathy reportedly due to ischemia,
   no current records regarding prior cath or interventions.
   -not on ASA, statin, plavix as outpatient
   -attempt to obtain OSH records in the AM re: cardiac history
   .
   # RHYTHM: Underlying atrial fibrillation with ventricular pacing at a
   rate of 80.  [**Company 1994**] VVIR at a rate of 80.  He has had periods of
   wide complex tachycardia on telemetry with rate up to 120's possibly
   [**2-15**] atrial fibrillation with aberrancy vs NSVT.
   -monitor on telemetry
   -will try to wean epilevo as tolerated
   -consider pacemaker interrogation in the am as some of the pacemaker
   spikes appear to be occurring on the qrs complex
   -anticoagulation has been held thus far during his admission, consider
   bridging with heparin as he has h/o LV thrombus.
   .
   #ESRD - currently on CVVH for volume removal given hypotension.
   According to renal team he is 30kg above his dry weight.
   -continue CVVH per renal reccs
   -titrate pressors for goal BP >65 or to prevent symptoms
   -monitor electrolytes
   .
   # Hypotension/altered mental status
 this AM, mentation somewhat poor
   compared to prior exams (MAP now 45).  Will try to add phenylephrine
   and wean epilevo, with goal SBP 70s.
   .
   #Left mainstem bronchial obstruction - [**2-15**] enlarged and calcified left
   ventricle, now s/p stenting of left mainstem with resolution of left
   lung collapse.
   -appreciate IP reccs
   -abx for possible HAP as below
   .
   #bilateral pleural effusions - [**2-15**] congestive heart failure, continues
   to drain via bilateral pigtail catheters.  Continue to monitor output.
   -appreciate IP reccs
   -monitor ouput
   .
   #DM1 - on lantus and SSI at home, has not been on lantus during this
   admission.
   -resume half dose lantus and titrate as needed
   -hiss
   .
   #Hospital acquired pneumonia - he had fevers s/p bronch and stenting
   which resolved on current regimen of abx.
   -continue vanc, zosyn for 8 day course (day 1 = [**8-14**])
   -follow vanc levels daily and dose per CVVH protocol
   .
   #Hypothyroidism - continue levothyroxine
   .
   # FEN - electrolyte monitoring/repletion per CVVH protocol, nutrition
   consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2179-8-13**] 12:08 PM
   Multi Lumen - [**2179-8-15**] 05:20 PM
   Prophylaxis:
   DVT: pneumoboots, heparin SC
   Stress ulcer:  famotidine
   HAP: vanc/zosyn  day 1=[**8-14**], of 8 day course ending [**8-22**]
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Attending
s Note.
   I agree with Dr.[**Last Name (STitle) 8445**]
s assessment and reviewed overnight course.
   Pt improving slowly.Attempt to wean off pressors.
   Spent 40 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2179-8-17**] 18:48 ------

2179-08-19 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: Right chest tube pigtail catheter came out yesterday.
   CVVH stopped yesterday at midnight because system continued to clot.
   Patient had periods of confusion regarding location o/n. No complaints
   this AM. Denies CP, SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-8-17**] 08:00 AM
   Piperacillin - [**2179-8-17**] 10:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-8-19**] 05:38 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Norephinephrine
 0.5 mcg/kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-8-18**] 08:00 PM
   Heparin Sodium - [**2179-8-18**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-8-19**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.2
C (95.4
   HR: 82 (82 - 110) bpm
   BP: 82/54(61) {56/19(29) - 88/54(62)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 72.6 kg (admission): 79 kg
   Height: 70 Inch
    CVP: 12 (12 - 18)mmHg
   Total In:
                                                                  9,536 mL
                                                                  1,297 mL
   PO:
                                                                    630 mL
   TF:
   IVF:
                                                                  8,906 mL
                                                                  1,297 mL
   Blood products:
   Total out:
                                                                 10,951 mL
                                                                     80 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                  1,217 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GENERAL: Chronically ill appearing male, resting comfortably in NAD.
   Oriented x2, Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric  EOMI
   NECK: Supple; tenderness, swelling, and weeping around RIJ, no JVD
   appreciable
   CARDIAC:  distant heart sounds RRR, no appreciable murmur
   LUNGS: Left chest tube in place, drained 800 mL yesterday. Right chest
   tube drained 310 mL before it was removed.  Resp were unlabored, no
   accessory muscle use. bibasilar crackles.
   ABDOMEN: Soft, NT, slightly distended, soft/reducible umbilical hernia,
   No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: [**3-17**]+ pitting edema all four extremities, Anterior surface
   of L arm has 2 cm ulceration, crusting and a rim of erythema, s/p right
   BKA, LLE with venous stasis dermatitis, slight arterial ulceration over
   ventral aspect of toes, no evidence of acute infection, palpable left
   DP.
   Labs / Radiology
   269 K/uL
   11.0 g/dL
   137 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   9 mg/dL
   93 mEq/L
   133 mEq/L
   35.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2179-8-17**]  03:28 AM
                             [**2179-8-17**]  10:15 AM
                             [**2179-8-17**]  10:37 AM
                             [**2179-8-18**]  02:09 AM
                             [**2179-8-18**]  06:37 AM
                             [**2179-8-18**]  11:28 AM
                             [**2179-8-18**]  04:10 PM
                             [**2179-8-18**]  06:30 PM
                             [**2179-8-18**]  10:26 PM
                             [**2179-8-19**]  02:40 AM
   WBC
   15.4
   14.6
   14.6
   13.8
   12.6
   Hct
   34.6
   34.2
   36.1
   33.5
   35.3
   Plt
   324
   331
   309
   296
   269
   Cr
   2.2
   1.9
   1.7
   1.5
   1.5
   1.3
   1.2
   1.4
   Glucose
   160
   165
   157
   191
   [**Telephone/Fax (2) 9258**]87
   137
   Other labs: PT / PTT / INR:17.8/70.5/1.6, ALT / AST:13/18, Alk Phos / T
   Bili:117/1.2, Differential-Neuts:89.8 %, Lymph:4.3 %, Mono:4.7 %,
   Eos:1.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:226 IU/L,
   Ca++:9.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   [**2179-8-18**]  Portable CXR
   There is no evidence of right hemothorax within the limitations of this
   portable technique study. There is no change in the left mediastinal
   shift,
   left ventricle calcifications and appearance of the mediastinum as well
   as
   overlying devices. A right internal jugular line double-lumen catheter
   is in
   unchanged position.
   [**2179-8-19**] Portable CXR: Pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE I
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 9204**] is a 69 yo M with severe ischemic cardiomyopathy (EF
   5-10%), L mainstem bronchus compression [**2-15**] LV enlargement s/p
   bronchoscopy and stenting, ESRD, CVVH stopped yesterday [**2-15**] system
   clotting, course c/b post bronch hypotension and inability to wean
   pressor support.
   .
   # PUMP: Acute on chronic ischemic systolic heart failure with EF 10% by
   echo [**2179-8-17**], exacerbation likely [**2-15**] combination of volume overload (up
   30kg from dry weight) and positive pressure ventilation for rigid
   bronchoscopy.  Patient with a biventricular pacer.
   -f/u with renal today regarding CVVH
   -goal of 2-4kg of volume removal daily
   -continue 0.5 mcg/kg/min of neosynephrine, currently on 5 mcg/kg/min
   of  levophed to maintain BP, attempt to wean levophed today, goal SBP
   >70, mentation appropriate this AM
   -continue digoxin
   -holding BB, ACEI given need for pressors at this time
   -continue midodrine
   .
   # CORONARIES: severe dilated cardiomyopathy reportedly due to ischemia,
   no current records regarding prior cath or interventions.
   -not on ASA, statin, plavix as outpatient
   -obtained OSH records re: cardiac history (in chart)
   .
   # RHYTHM: Underlying atrial fibrillation with biventricular pacing at a
   rate of 80.  [**Company 1994**] VVIR at a rate of 80.  This AM, had periods of
   wide complex tachycardia on telemetry with rate up to 120's possibly
   [**2-15**] atrial fibrillation with aberrancy vs NSVT.
   -monitor on telemetry
   -will try to wean levophed as tolerated
   -consider pacemaker interrogation in the am as some of the pacemaker
   spikes appear to be occurring on the qrs complex
   -continue anticoagulation with heparin, as he has h/o LV thrombus and
   additional mural thrombi by echo [**2179-8-17**].
   .
   #ESRD - currently on CVVH for volume removal given hypotension, but was
   stopped yesterday because the system continued to clot.  According to
   renal team he is 30kg above his dry weight.
   -discuss with renal today regarding CVVH
   -titrate pressors for goal BP >70 or to prevent symptoms
   -monitor electrolytes, K repleted yesterday
   -add nephrocaps
   .
   # Hypotension/altered mental status
 this AM, mentation appropriate,
   (MAP now 62).  Will keep neosynephrine and levophed, with goal SBP 70s.
   .
   #Left mainstem bronchial obstruction - [**2-15**] enlarged and calcified left
   ventricle, now s/p stenting of left mainstem with resolution of left
   lung collapse.
   -appreciate IP reccs
   -abx, Vanc and Zosyn, day 6. Vanc level 14.5 this AM, therapeutic,
   continue current regimen with monitoring of levels
   .
   #bilateral pleural transudative effusions - [**2-15**] congestive heart
   failure, continues to drain via Left pigtail catheter,  put out 800 mL
   o/n, attempt clamping Left pigtail catheter today and f/u with CXR to
   assess pulmonary congestion.
   -appreciate IP reccs
   -f/u AM CXR to r/o pneumothorax [**2-15**] R drain removal yesterday
   .
   #DM1 - on lantus and SSI at home.
   -continue half dose lantus and titrate as needed
   -hiss
   .
   #Hospital acquired pneumonia - he had fevers s/p bronch and stenting
   which resolved on current regimen of abx, WBC have been decreasing on
   current regimen of antibiotics.
   -continue vanc, zosyn for 8 day course (day 1 = [**8-14**])
   -follow vanc levels daily and dose per CVVH protocol
   .
   #Hypothyroidism - continue levothyroxine
   .
   # FEN - electrolyte monitoring/repletion per CVVH protocol, ensure with
   meals to supplement nutrition
   # Prophylaxis: Heparin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2179-8-13**] 12:08 PM
   Multi Lumen - [**2179-8-15**] 05:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-08-20 03:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had lengthy meeting with family, cardiology team, and palliative
   care.  pt/family currently want resuscitation/intubation, but they will
   re-address in AM, since they do not want to cause harm either.
   - off neo. weaning levo, currently at 0.47 (only pressor).
   - IP stopped by, ordered for cxr in AM.
   - dialysis line not working well, despite trying tPA as flush. tPA
   dwelling will be tried for 12 hrs, if not helping, will need IR guided
   temp dialysis line (ordered for [**2179-8-20**]).
   -Per nursing, patient continued to be confused throughout the night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2179-8-17**] 10:22 PM
   Vancomycin - [**2179-8-19**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-8-19**] 10:07 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Norepinephrine - 0.47 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-8-20**] 03:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.2
C (95.4
   HR: 89 (79 - 107) bpm
   BP: 74/46(53) {61/15(37) - 100/59(79)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 74 kg (admission): 79 kg
   Height: 70 Inch
    CVP: 11 (10 - 21)mmHg
   Total In:
                                                                  2,746 mL
                                                                    260 mL
   PO:
   TF:
   IVF:
                                                                  2,746 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,046 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   Physical Examination
   GENERAL: Chronically ill appearing male, sleeping comfortably in NAD,
   did not wake up this AM.
   HEENT: NCAT.
   NECK: Supple; tenderness, swelling, and weeping around RIJ, no JVD
   appreciable
   CARDIAC:  distant heart sounds RRR, no appreciable murmur
   LUNGS: L chest tube to wall suction in place, drained about  700  mL
   over 24h, 30 mL o/n, Resp were unlabored, no accessory muscle use.
   Bibasilar crackles.
   ABDOMEN: Soft, NT, slightly distended, soft/reducible umbilical hernia,
   No HSM or tenderness. No abdominal bruits.
   EXTREMITIES: Anterior surface of L arm has 2 cm ulceration, crusting
   and a rim of erythema, s/p right BKA, LLE with venous stasis
   dermatitis, slight arterial ulceration over ventral aspect of toes, no
   evidence of acute infection, palpable left DP.  [**3-17**]+ pitting edema all
   4 extremities
   Labs / Radiology
   256 K/uL
   10.1g/dL
   256 mg/dL
   2.2 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   93 mEq/L
   129 mEq/L
   32.8 %
   15.8 K/uL
        [image002.jpg]
                             [**2179-8-17**]  10:37 AM
                             [**2179-8-18**]  02:09 AM
                             [**2179-8-18**]  06:37 AM
                             [**2179-8-18**]  11:28 AM
                             [**2179-8-18**]  04:10 PM
                             [**2179-8-18**]  06:30 PM
                             [**2179-8-18**]  10:26 PM
                             [**2179-8-19**]  02:40 AM
                             [**2179-8-19**]  09:48 AM
                             [**2179-8-19**]  05:06 PM
   WBC
   14.6
   14.6
   13.8
   12.6
   14.9
   Hct
   34.2
   36.1
   33.5
   35.3
   35.4
   Plt
   [**Telephone/Fax (3) 9274**]69
   299
   Cr
   1.7
   1.5
   1.5
   1.3
   1.2
   1.4
   1.6
   1.8
   Glucose
   157
   191
   239
   221
   196
   187
   137
   139
   96
   Other labs: PT / PTT / INR:18/180
67.1/1.6, ALT / AST:13/18, Alk Phos /
   T Bili:117/1.2, Differential-Neuts:79.0 %, Lymph:8.5 %, Mono:10.6 %,
   Eos:1.7 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:226 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 PLEURAL EFFUSION, CHRONIC
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE I
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 9204**] is a 69 yo M with severe ischemic cardiomyopathy (EF
   5-10%), L mainstem bronchus compression [**2-15**] LV enlargement s/p
   bronchoscopy and balloon dilatation of bronchus, ESRD on CVVH,
   currently stopped [**2-15**] clotting off of line, course c/b post bronch
   hypotension and inability to wean pressor support.
   # PUMP: Acute on chronic ischemic systolic heart failure with EF 10% by
   echo [**2179-8-17**], exacerbation likely [**2-15**] combination of volume overload (up
   30kg from dry weight) and positive pressure ventillation for rigid
   bronchoscopy.  Patient with a biventricular pacer.
   -discuss resuming CVVH vs. HD with renal
   -goal of 2-4kg of volume removal daily
   -off neosynephrine, currently weaning levophed, patient maintaining
   goal SBP >70
   -continue digoxin
   -holding BB, ACEI given need for pressors at this time
   -continue midodrine
   # CORONARIES: severe dilated cardiomyopathy reportedly due to ischemia,
   no current records regarding prior cath or interventions.
   -not on ASA, statin, plavix as outpatient
   -obtained OSH records re: cardiac history (in chart)
   # RHYTHM: Underlying atrial fibrillation with biventricular pacing at a
   rate of 80.  [**Company 1994**] VVIR at a rate of 80.  He has periods of wide
   complex tachycardia on telemetry with rate up to 120's possibly [**2-15**]
   atrial fibrillation with aberrancy vs NSVT.
   -monitor on telemetry
   -will try to wean levophed as tolerated
   -consider pacemaker interrogation in the am as some of the pacemaker
   spikes appear to be occurring on the qrs complex
   -continue anticoagulation with heparin to as he has h/o LV thrombus and
   additional mural thrombi by echo [**2179-8-17**].
   #ESRD - on CVVH for volume removal given hypotension, but line clotted
   off, will check efficacy of tPA this AM. If does not work, IR to place
   temp dialysis line today.  CXR repeat this PM if line is placed.
   -per renal recs, goal removal of [**2-17**] kg/day of volume, but hard to
   assess insensible losses
   -titrate pressors for goal BP >70 or to prevent symptoms
   -monitor electrolytes
   -added nephrocaps
   # Hypotension/altered mental status
[**2-15**] to low MAP, fluid overload, or
   sepsis.  Of note, mental status waxes/wanes.  (MAP now 49, WBC count
   rising despite antibiotic treatment). Blood cultures pending.  Will
   wean levophed, with goal SBP 70s.
   #Left mainstem bronchial obstruction - [**2-15**] enlarged and calcified left
   ventricle, now s/p balloon dilatation of left mainstem with resolution
   of left lung collapse.
   -appreciate IP reccs
   -continue antibiotics, vanc and zosyn, day [**7-21**], vanc level 14.5 on [**8-19**],
   f/u trough and continue with current dosing regimen for possible HAP as
   below
   #bilateral pleural transudative effusions - [**2-15**] congestive heart
   failure, continues to drain via L pigtail catheters.  Put out 730 mL
   over past 24 hours.  Will try to remove chest tube today.  Pneumothorax
   resolved on CXR this AM.
   -appreciate IP recs
   -monitor output
   #DM1 - on lantus and SSI at home, has not been on lantus during this
   admission.
   -resume half dose lantus and titrate as needed
   -hiss
   #Hospital acquired pneumonia - he had fevers s/p bronch and stenting
   which resolved on current regimen of abx. Afebrile, but WBC elevated
   today with no bands. Blood cultures pending.
   -continue vanc, zosyn for 8 day course (day 1 = [**8-14**]), today is day 7.
   Follow vanc levels.
   #Hypothyroidism - continue levothyroxine
   # FEN - electrolyte monitoring/ Ensure TID
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2179-8-13**] 12:08 PM
   Multi Lumen - [**2179-8-15**] 05:20 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Attendings note.
   Agree with Dr.[**Last Name (STitle) 8445**]
s note.
   Pt is in delicate balance between BP and pressor requirements.
   Will need to discuss with family and Pt [**Name (NI) **]:DNR/DNI status.
   Reviewed data and examined Pt.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2179-8-20**] 10:08 ------